US09212184B2
To a stirred solution of ethyl 6,8-dibromoimidazo[1,2-a]pyrazine-2-carboxylate (13.95 g, 40 mmol) in toluene (558 mL) at 0° C. was added 80 mL DIBAH (120 mmol, 3 eq, 1.5M in toluene) dropwise. After stirring overnight at rt, the solution was poured on 1M HCl, extracted with ethyl acetate and the organic phase was washed with water, sole, dried over sodium sulphate and filtered. Removal of the solvent and recrystallyzation from DCM yielded 5.55 g (45.2%) (6,8-dibromoimidazo[1,2-a]pyrazin-2-yl)methanol: 1H-NMR (300 MHz, d6-DMSO): δ=8.93 (s, 1H), 8.05 (s, 1H), 5.46 (bs, 1H), 4.63 (s, 2H) ppm. UPLC-MS: RT=0.73 min; m/z 308.0 [MH+]; required MW=307.0.

reactant | ethyl 6,8-dibromoimidazo[1,2-a]pyrazine-2-carboxylate | 40 mmol, 13.95 g | BrC=1N=C(C=2N(C1)C=C(N2)C(=O)OCC)Br | C9H7Br2N3O2
reactant | DIBAH | 120 mmol, 1.5M, 80 mL, 3 eq | CC(C)C[AlH]CC(C)C
reactant | HCl | 1M | Cl | ClH
solvent | toluene | 558 mL | C1(=CC=CC=C1)C | C7H8
product | (6,8-dibromoimidazo[1,2-a]pyrazin-2-yl)methanol | 5.55 g, 45.2% | BrC=1N=C(C=2N(C1)C=C(N2)CO)Br | C7H5Br2N3O
